US08420629B2
Step 1. (3,3-dimethoxycyclobutane-1,1-diyl)dimethanol
At 0° C., to a solution of diisopropyl 3,3-dimethoxycyclobutane-1,1-dicarboxylate (3.0 g, 0.010 mol) in THF (20 mL) was added 2.0 M of lithium tetrahydroaluminate in tetrahydrofuran (16 mL) slowly with stirring. The mixture was stirred for 2 h, allowing warm up to rt. At 0° C., to the reaction was added dropwise water (1.2 mL), 15% NaOH solution (1.2 mL) and water (3.6 mL) successively and the resultant mixture was stirred for 20 min at rt. The mixture was filtered and the filtrate was concentration to give the desired product (1.64 g, 89%) as colorless oil which was used directly in the next step without purification.

reactant | diisopropyl 3,3-dimethoxycyclobutane-1,1-dicarboxylate | 0.010 mol, 3.0 g | COC1(CC(C1)(C(=O)OC(C)C)C(=O)OC(C)C)OC | C14H24O6
reactant | lithium tetrahydroaluminate | 2.0 M | [AlH4-].[Li+]
reactant | water | 1.2 mL | O | H2O
reactant | NaOH | 1.2 mL | [OH-].[Na+]
reactant | water | 3.6 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
product | (3,3-dimethoxycyclobutane-1,1-diyl)dimethanol | 1.64 g, 89% | COC1(CC(C1)(CO)CO)OC | C8H16O4
